US04036979
In the manner described in Example 1, 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine is allowed to react with n-hexyl isocyanate to give 1-(n-hexyl)-3-(4,5,6,7-tetrahydrobenzo[b]-thien-4-yl)urea, melting point 122° C. to 124° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine | S1C2=C(C=C1)C(CCC2)N | C8H11NS
reactant | n-hexyl isocyanate | C(CCCCC)N=C=O | C7H13NO
product | 1-(n-hexyl)-3-(4,5,6,7-tetrahydrobenzo[b]-thien-4-yl)urea | C(CCCCC)NC(=O)NC1CCCC=2SC=CC21 | C15H24N2OS
